US05599924
Preparation Of 2,5-Bis(2,2,3,3,4,4,4-heptafluoro-1-hydroxybutyl)pyrrole
Heptafluorobutyraldehyde hydrate (5.0 g, 23 mmol) was placed in a 100 mL Schlenk flask. This was frozen with liquid nitrogen and an inert atmosphere was established. Against an outflow of nitrogen, dried pyrrole (0.694 mL, 10 mmol) and sodium hydroxide (2.25 g, 56 mmol) were added. The flask was wrapped in foil and the mixture was stirred for 2 days. The volatiles were removed by vacuum, leaving a light brown, oily solid. The solid was dissolved in 40 mL of water and the solution was extracted (4×50 ml) with methylene chloride. The organic layers were dried over sodium sulfate and then evaporated to dryness under vacuum to an oily brown solid (38%), which proved to be a diastereomeric mixture of the desired products.

reactant | Heptafluorobutyraldehyde hydrate | 23 mmol, 5.0 g | O.FC(C(C(C=O)(F)F)(F)F)(F)F
reactant | pyrrole | 10 mmol, 0.694 mL | N1C=CC=C1 | C4H5N
reactant | sodium hydroxide | 56 mmol, 2.25 g | [OH-].[Na+]
solvent | water | 40 mL | O | H2O
product | 2,5-Bis(2,2,3,3,4,4,4-heptafluoro-1-hydroxybutyl)pyrrole | FC(C(O)C=1NC(=CC1)C(C(C(C(F)(F)F)(F)F)(F)F)O)(C(C(F)(F)F)(F)F)F | C12H7F14NO2
